US09233982B2
Step 3: 2′-methyl-2-(3-(trifluoromethyl)phenyl)-6,7-dihydro-2′H,5H-spiro[benzo[b]thiophene-4,5′-[1,2,4]oxadiazol]-3′-amine
To a solution of methylhydroxylamine hydrochloride (23 mg, 0.28 mmol) in methanol (2 mL) was added potassium carbonate (44 mg, 0.32 mmol) followed by (E)-N-(2-(3-(trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)cyanamide (50 mg, 0.16 mmol). The reaction mixture was stirred at room temperature for 1 hr. The mixture was concentrated in vacuo and the crude residue partitioned between dichloromethane and water. The product was extracted into dichloromethane (×3). The organic extracts were combined, dried (MgSO4) and concentrated under reduced pressure. The crude residue was purified using preparative HPLC to give the title compound as yellow solid (34.2 mg, 58%). (regioisomeric mix with 2′-methyl-2-(3-(trifluoromethyl)phenyl)-6,7-dihydro-2′H, 5H-spiro[benzo[b]thiophene-4,3′-[1,2,4]oxadiazol]-5′-amine). 1H NMR δ (ppm)(DMSO-d6): 7.87-7.80 (2H, m), 7.64-7.58 (2H, m), 7.34 (1H, s), 6.12 (2H, s), 2.94 (3H, s), 2.80-2.60 (2H, m), 1.93-1.80 (3H, m), 1.80-1.69 (1H, m). HPLC (Method a) Rt 8.05 (min) m/z 368 (MH+).

reactant | methylhydroxylamine hydrochloride | 0.28 mmol, 23 mg | Cl.CNO
reactant | potassium carbonate | 0.32 mmol, 44 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-N-(2-(3-(trifluoromethyl)phenyl)-6,7-dihydrobenzo[b]thiophen-4(5H)-ylidene)cyanamide | 0.16 mmol, 50 mg | FC(C=1C=C(C=CC1)C1=CC\2=C(S1)CCC/C2=N\C#N)(F)F | C16H11F3N2S
solvent | methanol | 2 mL | CO | CH4O
product | 2′-methyl-2-(3-(trifluoromethyl)phenyl)-6,7-dihydro-2′H,5H-spiro[benzo[b]thiophene-4,5′-[1,2,4]oxadiazol]-3′-amine | 34.2 mg, 58% | CN1OC2(N=C1N)CCCC=1SC(=CC12)C1=CC(=CC=C1)C(F)(F)F | C17H16F3N3OS
